US08748626B2
To a solution of (5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)methanol (6.66 g, 20.99 mmol) in dichloromethane (70.0 mL) was added Dess-Martin periodinane (13.35 g, 31.5 mmol). The reaction mixture was stirred at room temperature for overnight. 200 mL of saturated NaHCO3 solution and saturated Na2S2O3 solution (8:1) was added for quenching the reaction. After stirred for 1 h, the reaction mixture was extracted by EtOAc. The organic layers was washed with water and brine, dried over anhydrous Na2SO4, filtered, and concentrated. The crude product was purified by column chromatography to yield 5-benzyl-2-(2,5-difluorophenyl)thiazole-4-carbaldehyde (5.3 g, 80%) as white solid. 1H NMR (CDCl3, 400 MHz): δ 10.3 (1H, s), 8.01 (1H, m), 7.36-7.17 (5H, m), 7.16-7.07 (2H, m), 4.64 (2H, s). LC/MS (uplc): MH+ 316.2, 1.21 min.

reactant | (5-benzyl-2-(2,5-difluorophenyl)thiazol-4-yl)methanol | 20.99 mmol, 6.66 g | C(C1=CC=CC=C1)C1=C(N=C(S1)C1=C(C=CC(=C1)F)F)CO | C17H13F2NOS
reactant | Dess-Martin periodinane | 31.5 mmol, 13.35 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | dichloromethane | 70.0 mL | ClCCl | CH2Cl2
product | 5-benzyl-2-(2,5-difluorophenyl)thiazole-4-carbaldehyde | 5.3 g, 80% | C(C1=CC=CC=C1)C1=C(N=C(S1)C1=C(C=CC(=C1)F)F)C=O | C17H11F2NOS
